US04126687
A mixture of 6.4 parts of 3-{3-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-5-methyl-1-(1-methylethenyl)-2H-benzimidazol-2-one, 24 parts of a concentrated hydrochloric acid solution, 80 parts of ethanol and 50 parts of water is stirred for 1 hour at room temperature. The reaction mixture is evaporated and the residue is stirred in ammonium hydroxide. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is triturated in 4-methyl-2-pentanone. The product is filtered off and crystallized from a mixture of N,N-dimethylformamide and water, yielding 2.5 parts (40%) of 5-chloro-1-{1-[3-(2,3-dihydro-6-methyl-2-oxo-1H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one hemihydrate; mp. 195.4° C.

reactant | 3-{3-[4-(5-chloro-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-5-methyl-1-(1-methylethenyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCN2C(N(C3=C2C=C(C=C3)C)C(=C)C)=O)C=C1 | C26H30ClN5O2
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-chloro-1-{1-[3-(2,3-dihydro-6-methyl-2-oxo-1H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one hemihydrate | 40% | O.ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCN2C(NC3=C2C=C(C=C3)C)=O)C=C1.ClC1=CC3=C(N(C(N3)=O)C3CCN(CC3)CCCN3C(NC2=C3C=C(C=C2)C)=O)C=C1 | InChI=1S/2C23H26ClN5O2.H2O/c2*1-15-3-5-18-21(13-15)28(22(30)25-18)10-2-9-27-11-7-17(8-12-27)29-20-6-4-16(24)14-19(20)26-23(29)31;/h2*3-6,13-14,17H,2,7-12H2,1H3,(H,25,30)(H,26,31);1H2
